US07615552B2
Chloro-4-morpholino-6-nitro-pyrido[2,3-d]pyrimidine (4.4 g; 15 mmol) was dissolved in tetrahydrofuran (100 mL). To the solution was added morpholino-2-ethanol (2.4 g; 18 mmol), and it was chilled in a dry ice bath. Sodium 400 mg; 18 mmol). was then added, and it was allowed to warm to room temperature and stirred overnight. The solvent was then evaporated, and the solid was dissolved in dichloromethane (50 mL), washed with water (3×10 mL), dried over magnesium sulfate, and purified by column chromatography to give 4-morpholin-4-yl-2-(2-morpholin-4-yl-ethoxy)-6-nitro-pyrido[2,3-d]pyrimidine (3.35 g).

reactant | Chloro-4-morpholino-6-nitro-pyrido[2,3-d]pyrimidine | 15 mmol, 4.4 g | ClC=1N=C(C2=C(N1)N=CC(=C2)[N+](=O)[O-])N2CCOCC2 | C11H10ClN5O3
reactant | morpholino-2-ethanol | 18 mmol, 2.4 g | O1CCN(CC1)CCO | C6H13NO2
reactant | Sodium | 400 mg | [Na] | Na
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 4-morpholin-4-yl-2-(2-morpholin-4-yl-ethoxy)-6-nitro-pyrido[2,3-d]pyrimidine | 3.35 g | N1(CCOCC1)C=1C2=C(N=C(N1)OCCN1CCOCC1)N=CC(=C2)[N+](=O)[O-] | C17H22N6O5
